US07799822B2
To a cooled (0-5° C.) solution of 4-fluoro-indole (44.2 g, 327 mmol) in dry DMF (400 mL) was added sodium hydride (55-65% dispersion in mineral oil, 36 g, 817 mmol) in portions. The resulting suspension was stirred at 0-5° C. for 20 minutes. (2S)-(−)-2-Bromopropionic acid (31.8 mL, 343 mmol) was added dropwise. During the addition, the temperature was kept below 10° C. by cooling in an ice-bath. Upon completion of addition, the mixture was stirred at RT for 2 hours. The mixture was poured into water (1300 mL), and the aqueous solution was washed with heptanes (400 mL) and EtOAc (2×400 mL). The aqueous layer was acidified with concentrated aqueous HCl solution (85 mL, pH<1), and extracted with EtOAc (2×400 mL). The combined organic layers were washed with 1 N aq. HCl solution (2×300 mL) and with a saturated aqueous NaCl solution (300 mL). The solution was dried over sodium sulfate, filtered, and evaporated to dryness to afford a yellow oil (67.6 g, 99%, 82% ee). This oil (67.6 g, 323 mmol) was dissolved in 200 mL n-butyl acetate and (S)-L-(−)-α-methylbenzylamine (41.1 mL, 323 mmol) was added to the warm (50° C.) solution. The mixture was left crystallizing over the weekend. The formed solid was collected by filtration and washed with butyl acetate and heptanes (2×) (68.7 g, 91% ee). This material was recrystallized twice from 500 mL water/15% ethanol (1st recr.: 95% ee, 2nd recr.: 97.5% ee). This material was dissolved in EtOAc (300 mL) and washed with 1 N aqueous HCl (2×200 mL) and saturated aqueous NaCl solution (200 mL), dried over sodium sulfate, filtered, and evaporated to dryness giving (2R)-2-(4-fluoro-indol-1-yl)-propionic acid (18.7 g, 28%) as a greenish oil (purity: 97.5%).

reactant | 4-fluoro-indole | 327 mmol, 44.2 g | FC1=C2C=CNC2=CC=C1 | C8H6FN
reactant | sodium hydride | 817 mmol, 36 g | [H-].[Na+]
reactant | (2S)-(−)-2-Bromopropionic acid | 343 mmol, 31.8 mL | Br[C@H](C(=O)O)C | C3H5BrO2
reactant | water | 1300 mL | O | H2O
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | n-butyl acetate | 200 mL | C(C)(=O)OCCCC | C6H12O2
product | (2R)-2-(4-fluoro-indol-1-yl)-propionic acid | 18.7 g, 28% | FC1=C2C=CN(C2=CC=C1)[C@@H](C(=O)O)C | C11H10FNO2
